US06265434B1
Step A: (R/S)-3-Cyclohexyl-2-hydroxy-propanoic acid, 4-(methoxy)benzyl ester
A solution of 0.50 g (2.32 mmol) of 4-(methoxy)benzylglyoxylate (azeotropically dried with 2×25 mL of toluene) in 2 mL of ether at −78° C. was treated with 7 mL of 0.5 M of cyclohexylmethylmagnesium bromide (prepared from 1.0 mL (7.1 mmol) of bromomethylcyclohexane, 174 mg (7.1 mmol) of Mg, 0.1 mL (1.1 mmol) of 1,2-dibromoethane in 14 mL of ether) and the resulting mixture was stirred cold for 1 h. The reaction was quenched with 1 N NaHCO3 and the quenched mixture was partitioned between 100 mL of ether and 100 mL of sat'd NaHCO3. The aqueous layer was separated and extracted with 100 mL of ether. The combined organic layers were dried over MgSO4 and concentrated. Flash chromatography on silica gel using 4:1 v/v hexanes/EtOAc afforded 180 mg (26%) of the title compound: RF: 0.32 (4:1 v/v hexanes/EtOAc); 1H NMR (300 MHz) δ 0.84-1.82 (m, 13H), 3.81 (s, 3H), 4.23 (m, 1H), 5.14 (s, 2H), 6.90 (d, J=8.7, 2H), 7.29 (d, J=8.7, 2H).

reactant | 4-(methoxy)benzylglyoxylate | 2.32 mmol, 0.50 g | COC1=CC=C(CC(C(=O)[O-])=O)C=C1
reactant | cyclohexylmethylmagnesium bromide | 7.1 mmol, 0.5 M, 7 mL, 174 mg | C1(CCCCC1)C[Mg]Br
reactant | bromomethylcyclohexane | 7.1 mmol | BrCC1CCCCC1 | C7H13Br
reactant | 1,2-dibromoethane | 1.1 mmol | BrCCBr | C2H4Br2
reactant | ether | 2 mL | CCOCC | C4H10O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | (R/S)-3-Cyclohexyl-2-hydroxy-propanoic acid, 4-(methoxy)benzyl ester | 180 mg, 26% | C1(CCCCC1)CC(C(=O)OCC1=CC=C(C=C1)OC)O | C17H24O4
